data/rdb19/train.csv
rxn,smiles,ea
1478,[C:10]([C:11]([C:12]([H:13])[O:14][C:15]([H:21])([H:22])[H:23])([H:19])[H:20])([H:16])([H:17])[H:18].[O:1]([C:2](=[O:3])[C:4](=[C:5]([H:8])[H:9])[H:7])[H:6]>>[C:10]([C:11](=[C:12]([H:13])[O:14][C:15]([H:21])([H:22])[H:23])[H:19])([H:16])([H:17])[H:18].[O:1]([C:2]([O:3][H:20])[C:4](=[C:5]([H:8])[H:9])[H:7])[H:6],30.42681699438253
3651,[C:17]([C:18](=[O:19])[O:20][C:21](=[C:22]([H:27])[H:28])[H:26])([H:23])([H:24])[H:25].[C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([C:5]([H:6])[H:7])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:18](=[O:19])[O:20][C:21](=[C:22]([H:27])[H:28])[H:26].[C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])=[C:5]([H:6])[H:7])([H:11])[H:12])([H:8])([H:9])[H:10].[H:13][C:17]([H:23])([H:24])[H:25],80.40238535677781
5465,[C:19]([C:20]([C:21]([H:22])[H:23])([N:24]([C:25](=[O:26])[H:32])[H:31])[H:30])([H:27])([H:28])[H:29].[C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([N:5]([C:6](=[O:7])[H:18])[H:17])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([N:5]([C:6](=[O:7])[H:18])[H:17])[H:13])[H:11])([H:8])([H:9])[H:10].[H:12][C:21]([C:20]([C:19]([H:27])([H:28])[H:29])([N:24]([C:25](=[O:26])[H:32])[H:31])[H:30])([H:22])[H:23],20.515115608577617
5328,[C:17]([C:18]([C:19]([H:20])[H:21])([c:22]1[c:23]([H:32])[c:24]([H:33])[c:25]([H:34])[c:26]([H:35])[c:27]1[H:36])[H:31])([H:28])([H:29])[H:30].[C:1](=[C:2]([c:3]1[c:4]([H:12])[c:5]([H:13])[c:6]([H:14])[c:7]([H:15])[c:8]1[H:16])[H:11])([H:9])[H:10]>>[C:17]([C:18](=[C:19]([H:20])[H:21])[c:22]1[c:23]([H:32])[c:24]([H:33])[c:25]([H:34])[c:26]([H:35])[c:27]1[H:36])([H:28])([H:29])[H:30].[C:1](=[C:2]([C:3]1([H:31])[C:4]([H:12])[C:5]([H:13])=[C:6]([H:14])[C:7]([H:15])=[C:8]1[H:16])[H:11])([H:9])[H:10],39.7693956727162
3364,[C:13]([C:14]([C:15]([H:16])[H:17])([O:18][C:19](=[O:20])[C:21]([H:26])([H:27])[H:28])[H:25])([H:22])([H:23])[H:24].[C:1]([C:2](=[C:3]([H:8])[H:9])[C:4]([H:10])([H:11])[H:12])([H:5])([H:6])[H:7]>>[C:1]([C:2]([C:3]([H:8])[H:9])([C:4]([H:10])([H:11])[H:12])[C:15]([C:14]([C:13]([H:22])([H:23])[H:24])([O:18][C:19](=[O:20])[C:21]([H:26])([H:27])[H:28])[H:25])([H:16])[H:17])([H:5])([H:6])[H:7],19.68799424561439
959,[C:1]([C:2]([C:3]([H:4])[H:5])([C:6](=[O:7])[O:8][H:13])[H:12])([H:9])([H:10])[H:11].[N:14]([C:15](=[O:16])[C:17](=[C:18]([H:22])[H:23])[H:21])([H:19])[H:20]>>[C:1]([C:2]([C:3]([H:4])([H:5])[C:17]([C:15]([N:14]([H:19])[H:20])=[O:16])([C:18]([H:22])[H:23])[H:21])([C:6](=[O:7])[O:8][H:13])[H:12])([H:9])([H:10])[H:11],16.08609715627972
4145,[C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])[C:5](=[O:6])[O:7][C:8]([H:17])([H:18])[H:19])([H:12])[H:13])([H:9])([H:10])[H:11].[C:20]([C:21](=[O:22])[O:23][C:24](=[C:25]([H:30])[H:31])[H:29])([H:26])([H:27])[H:28]>>[C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([C:5](=[O:6])[O:7][C:8]([H:17])([H:18])[H:19])[H:26])([H:12])[H:13])([H:9])([H:10])[H:11].[C:20]([C:21](=[O:22])[O:23][C:24](=[C:25]([H:30])[H:31])[H:29])([H:27])[H:28],26.59345613856567
3336,[C:13]([O:14][C:15]([C:16]([H:24])([H:25])[H:26])([C:17]([H:18])[H:19])[H:23])([H:20])([H:21])[H:22].[C:1]([C:2](=[C:3]([H:8])[H:9])[C:4]([H:10])([H:11])[H:12])([H:5])([H:6])[H:7]>>[C:1]([C:2]([C:3]([H:8])[H:9])([C:4]([H:10])([H:11])[H:12])[C:17]([C:15]([O:14][C:13]([H:20])([H:21])[H:22])([C:16]([H:24])([H:25])[H:26])[H:23])([H:18])[H:19])([H:5])([H:6])[H:7],21.46270474937046
5146,[C:1]([C:2]([C:3]([C:4]([H:17])([H:18])[H:19])([c:5]1[c:6]([H:20])[c:7]([H:21])[c:8]([H:22])[c:9]([H:23])[c:10]1[H:24])[H:16])([H:14])[H:15])([H:11])([H:12])[H:13].[C:25]([C:26]([C:27]([H:28])[O:29][C:30](=[O:31])[C:32]([H:38])([H:39])[H:40])([H:36])[H:37])([H:33])([H:34])[H:35]>>[C:1]([C:2]([C:3]([C:4]([H:17])([H:18])[H:19])([H:16])[H:37])([H:14])[H:15])([H:11])([H:12])[H:13].[C:25]([C:26](=[C:27]([H:28])[O:29][C:30](=[O:31])[C:32]([H:38])([H:39])[H:40])[H:36])([H:33])([H:34])[H:35].[c:5]1[c:6]([H:20])[c:7]([H:21])[c:8]([H:22])[c:9]([H:23])[c:10]1[H:24],92.1657006459427
2845,[C:1]([C:2]([O:3][C:4](=[O:5])[C:6](=[C:7]([H:14])[H:15])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10].[O:16]([O:17])[H:18]>>[C:1]([C:2]([O:3][C:4](=[O:5])[C:6](=[C:7][H:15])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10].[H:14][O:17][O:16][H:18],31.862218685331754
3097,[C:16]([C:17]([C:18]([H:19])[H:20])([N:21]([C:22](=[O:23])[H:29])[H:28])[H:27])([H:24])([H:25])[H:26].[C:1]([C:2]([O:3][C:4](=[O:5])[C:6](=[C:7]([H:14])[H:15])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([O:3][C:4]([O:5])([C:6](=[C:7]([H:14])[H:15])[H:13])[C:18]([C:17]([C:16]([H:24])([H:25])[H:26])([N:21]([C:22](=[O:23])[H:29])[H:28])[H:27])([H:19])[H:20])([H:11])[H:12])([H:8])([H:9])[H:10],25.66831836954225
